US07173102B2
2,6-Dinitro-4-t-butyl-phenyl (4-methyl)-benzenesulfonate (11)
2,6-dinitro-4-t-butyl-phenol (80 mmol; 10) and tosyl chloride (80 mmol) were dissolved in 300 ml CH2Cl2. Diisopropylethylamine (DIEA, 80 mmol) was added to the solution. The mixture was stirred at room temperature for 2 hours. The solution was washed with 10% citric acid, saturated aqueous NaCl (sat. NaCl), and dried with MgSO4. The solvent was removed under reduced pressure, and the product was obtained as a bright yellow solid in quantitative yield. 1H NMR (500 MHz, CDCl3): δ=8.12 (s, 2H), 7.80 (d, 2H), 7.40 (d, 2H), 2.51(s, 3H), 1.41 (s, 9H). ESI-MS: m/z: 417.2 (M+Na+).

reactant | 2,6-dinitro-4-t-butyl-phenol | 80 mmol | [N+](=O)([O-])C1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])O | C10H12N2O5
reactant | tosyl chloride | 80 mmol | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Diisopropylethylamine | 80 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | 2,6-Dinitro-4-t-butyl-phenyl (4-methyl)-benzenesulfonate | quantitative yield | CC1=CC=C(C=C1)S(=O)(=O)OC1=C(C=C(C=C1[N+](=O)[O-])C(C)(C)C)[N+](=O)[O-] | C17H18N2O7S
